US07196081B2
Next, the resulting 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)-malonic acid (1.0 g) was dissolved in dimethyl sulfoxide (10 ml) and the mixture was heated for 4 hours at 120° C. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/1) to give 9-[6-methoxy-2-(4-methoxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid (820 mg, Yield 94%).

reactant | 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)-malonic acid | 1.0 g | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)O)(C(=O)O)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC | C33H37F5O6
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 9-[6-methoxy-2-(4-methoxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid | 820 mg, Yield 94% | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)O)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC | C32H37F5O4
